US05814653
6-(allyloxycarbonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 10.0 mg (0.0437 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 5.5 mg (0.0458 mMol) allyl chloroformate, 4.4 mg (33%) of the title compound were recovered.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.0437 mMol, 10.0 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | allyl chloroformate | 0.0458 mMol, 5.5 mg | ClC(=O)OCC=C | C4H5ClO2
product | 6-(allyloxycarbonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 4.4 mg, 33% | C(C=C)OC(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C18H23N3O2
